US07947851B2
Step e) Formation of methyl 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(hexyl)amino]-2-hydroxybenzoate
To a solution of 6-[{4-[(4-butylphenyl)ethynyl]benzyl}(hexyl)amino]-2,2-dimethyl-4H-1,3-benzodioxin-4-one (4.41 g, 8.4 mmol) in MeOH (500 mL) and water (30 mL) was added an aqueous solution of NaOH (7.0 mL, 5N). The reaction mixture was stirred at rt for 2 hrs and a yellow powder precipitated out progressively. Filtration and washing with water (2×) gave the title compound as a yellow powder. HPLC, Rt: 5.3 min (purity: 98.7%). LC/MS, M+(ESI): 498.3. 1H NMR (CDCl3) δ: 10.16 (s, 1H), 7.45 (m, 4H), 7.19 (m, 5H), 6.94 (dd, J=9.0, 3.0 Hz, 1H), 6.86 (d, J=9.0 Hz, 1H), 4.43 (s, 2H), 3.92 (s, 3H), 3.28 (t, J=7.5 Hz, 2H), 2.63 (t, J=7.5 Hz, 2H), 1.60 (m, 4H), 1.30 (m, 8H), 0.92 (m, 6H).

reactant | 6-[{4-[(4-butylphenyl)ethynyl]benzyl}(hexyl)amino]-2,2-dimethyl-4H-1,3-benzodioxin-4-one | 8.4 mmol, 4.41 g | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C2=CC3=C(OC(OC3=O)(C)C)C=C2)CCCCCC)C=C1 | C35H41NO3
reactant | NaOH | 5N, 7.0 mL | [OH-].[Na+]
solvent | MeOH | 500 mL | CO | CH4O
solvent | water | 30 mL | O | H2O
product | methyl 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(hexyl)amino]-2-hydroxybenzoate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)OC)C2)O)CCCCCC)C=C1 | C33H39NO3
